US04000174
A solution of 10.9 g. of 1,1,5-trimethoxy-2,6-dimethylheptane in 200 ml. of tetrahydrofuran and 60 ml. of water is treated with 1 g. of trichloroacetic acid and then the mixture heated at 60° for 1 hour. After cooling, there is added 40 ml. of 2N sodium hydroxide in methanol followed by 2 g. of powdered sodium borohydride. The reaction mixture is stirred at room temperature for 3 hours and then concentrated and extracted with ether. The ethereal extracts are evaporated under reduced pressure to give crude 1-hydroxy-5-methoxy-2,6-dimethylheptane which can be purified by distillation.

reactant | 1,1,5-trimethoxy-2,6-dimethylheptane | COC(C(CCC(C(C)C)OC)C)OC | C12H26O3
reactant | trichloroacetic acid | ClC(C(=O)O)(Cl)Cl | C2HCl3O2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | sodium borohydride | [BH4-].[Na+]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-hydroxy-5-methoxy-2,6-dimethylheptane | OCC(CCC(C(C)C)OC)C | C10H22O2
